US03931188
4-(2-Aminoethyl)-1,2-dihydronaphthalene (II)
A solution of 107 g. (1.67 mole) of n-butyl lithium in 288 ml. of hexane was cooled to -78°C. and 240 ml. of tetrahydrofuran was added. A solution of 24 ml. (0.46 mole) of acetonitrile in 360 ml. of tetrahydrofuran was added over 20 minutes. After stirring for 1 hour at -78°C., a solution of 58.5 g. (0.40 mole) of 1-tetralone in 400 ml. of tetrahydrofuran was added over 15 minutes. The cold bath was removed and stirring was continued for another 15 minutes. Lithium aluminum hydride, 18 g. (0.48 mole), was added and the mixture was stirred at 24°C. for 3 hours. After cooling to 0°C., 18 ml. of water was added cautiously, followed by 13.5 ml. of 20% by weight of an aqueous solution of NaOH and 63 ml. of water. After stirring at 24°C. for 15 minutes, the inorganic salts were filtered off. The ether solution was extracted twice with 500 ml. portions and once with a 100 ml. portion of 10% by weight aqueous HCl. The aqueous layers were made basic by the addition of 25% by weight of NaOH in water and extracted three times with 500 ml. portions of ether to give a yellow oil. A benzene solution of the oil was saturated with HCl gas and refluxed under a water separator until water ceased to pass over. After cooling to 10°C., the crystalline hydrochloride salt of the product was collected in approximately 70 percent overall yield.

reactant | n-butyl lithium | 1.67 mole | C(CCC)[Li]
reactant | acetonitrile | 0.46 mole | C(C)#N | C2H3N
reactant | 1-tetralone | 0.40 mole | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(2-Aminoethyl)-1,2-dihydronaphthalene | NCCC1=CCCC2=CC=CC=C12 | C12H15N
